US07148226B2
N-(4-bromophenyl)methanesulfonamide
Methane sulfonyl chloride (2.4 ml, 0.031 M) was added to a solution of 4-bromo-aniline (5.28 g, 0.031 M) and pyridine (2.5 ml, 0.031 M) in dichloromethane (100 ml) at 0° C. The reaction mixture was stirred for 1 hr, after which time it was partitioned between dichloromethane (100 ml) and 1N hydrochloric acid (100 ml). The organics were separated and dried over magnesium sulfate, filtered and concentrated in vacuuo to afford the title compound as a white solid (6.37 g).

reactant | Methane sulfonyl chloride | 0.031 M, 2.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-bromo-aniline | 0.031 M, 5.28 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | pyridine | 0.031 M, 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-bromophenyl)methanesulfonamide | 6.37 g | BrC1=CC=C(C=C1)NS(=O)(=O)C | C7H8BrNO2S
